US09284335B2
Step C: Ethyl 3-cyano-5-(((2S,6R)-2,6-dimethylmorpholino)methyl)pyridin-2-ylcarbamate.
Sodium hydride in mineral oil (60%, 25 mg, 0.61 mmol) was added to 2-amino-5-(((2S,6R)-2,6-dimethylmorpholino)methyl)nicotinonitrile (100 mg, 0.41 mmol) in THF (2 mL) and the mixture was stirred for 5 minutes. Ethyl chloroformate (0.05 mL, 0.48 mmol) was added followed by additional sodium hydride (16 mg, 0.41 mmol) and the reaction stirred at room temperature for 3 h. The reaction was poured into a saturated solution of sodium bicarbonate (10 mL), extracted with EtOAc (3×5 mL), dried (Na2SO4) and concentrated under reduced pressure. The residue was taken up in methanol (10 mL) and stirred with potassium carbonate (170 mg) for 10 minutes, then poured into saturated sodium bicarbonate (10 mL) and extracted with EtOAc (3×5 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. Purification (FCC, SiO2, 0-100%, EtOAc/hexanes) afforded the title compound as a white powder (104 mg, 80%). 1H NMR (400 MHz, DMSO-d6) δ 1.04 (d, J=6.27 Hz, 6H), 1.26 (t, J=7.03 Hz, 3H), 1.69 (t, J=10.60 Hz, 2H), 2.67 (d, J=10.67 Hz, 2H), 3.51 (s, 2H), 3.54-3.62 (m, 2H), 4.17 (q, J=7.11 Hz, 2H), 8.12-8.24 (m, 1H), 8.56 (d, J=2.01 Hz, 1H), 10.37 (s, 1H).

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-amino-5-(((2S,6R)-2,6-dimethylmorpholino)methyl)nicotinonitrile | 0.41 mmol, 100 mg | NC1=C(C#N)C=C(C=N1)CN1C[C@@H](O[C@@H](C1)C)C | C13H18N4O
reactant | Ethyl chloroformate | 0.48 mmol, 0.05 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydride | 0.41 mmol, 16 mg | [H-].[Na+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Ethyl 3-cyano-5-(((2S,6R)-2,6-dimethylmorpholino)methyl)pyridin-2-ylcarbamate | 104 mg, 80% | C(#N)C=1C(=NC=C(C1)CN1C[C@@H](O[C@@H](C1)C)C)NC(OCC)=O | C16H22N4O3
